US05912246
A mixture of 1,3-dichloro-4-fluorobenzene (Aldrich; 4.21 g), piperazine (Aldrich; 11.0 g), and N,N-dimethylacetamide (Aldrich; 15 mL) is heated at 165° C. for 6.5 h. After cooling, the mixture is partitioned between dichloromethane and aq. sodium bicarbonate. The organic layers are dried over sodium sulfate and concentrated under reduced pressure to give 4.48 g of 1-(2,4-dichlorophenyl) piperazine. 1H NMR (CDCl3) δ3.00, 3.06, 6.96, 7.19, 7.36.

reactant | 1,3-dichloro-4-fluorobenzene | 4.21 g | ClC1=CC(=C(C=C1)F)Cl | C6H3Cl2F
reactant | piperazine | 11.0 g | N1CCNCC1 | C4H10N2
solvent | N,N-dimethylacetamide | 15 mL | CN(C(C)=O)C | C4H9NO
product | 1-(2,4-dichlorophenyl) piperazine | 4.48 g | ClC1=C(C=CC(=C1)Cl)N1CCNCC1 | C10H12Cl2N2
